US07666864B2
Step 3: 2-[4-(5-Bromo-pyrimidin-2-yl)-[1,4]diazepan-1-ylmethyl]-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole.
The 1-(2-Bromo-4-nitro-imidazol-1-yl)-3-[4-(5-bromo-pyrimidin-2-yl)-[1,4]diazepan-1-yl]-2-methyl-propan-2-ol (600 mg, 1.15 mmol) in DMF (4 ml) was treated with NaH (33 mg, 1.4 mmol) at 0° C. and heated to 60° C. for 2 h. The reaction mixture is cooled, diluted with saturated NH4Cl (aq) and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography to titled compound (384 mg, 75%). ESI MS m/z 439 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.24 (s, 2H), 7.4 (s, 1H) 4.15 (d, J=23 Hz, 1H), 3.81 (m, 5H), 3.06 (d, J=38 Hz, 1H), 2.95 (m, 2H), 2.85 (m, 1H), 2.75 (m, 1H), 2.62 (d, J=29 Hz, 1H), 1.63 (m, 2H), 1.54 (s, 3H).

reactant | 1-(2-Bromo-4-nitro-imidazol-1-yl)-3-[4-(5-bromo-pyrimidin-2-yl)-[1,4]diazepan-1-yl]-2-methyl-propan-2-ol | 1.15 mmol, 600 mg | BrC=1N(C=C(N1)[N+](=O)[O-])CC(CN1CCN(CCC1)C1=NC=C(C=N1)Br)(O)C | C16H21Br2N7O3
reactant | NaH | 1.4 mmol, 33 mg | [H-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-[4-(5-Bromo-pyrimidin-2-yl)-[1,4]diazepan-1-ylmethyl]-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | BrC=1C=NC(=NC1)N1CCN(CCC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C16H20BrN7O3
